US08252797B2
A mixture of 1,3-dipropyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.100 g, 0.23 mmol), methanesulfonic acid 1-(4-isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl ester (0.107 g, 0.34 mmol), K2CO3 (0.048 g, 0.34 mmol) and DMF (1 ml) were heated at 75-80° C. for 16 hrs. Reaction mixture was cooled to 20-25° C. and water was added (10 ml). The aqueous layer was extracted with ethyl acetate, washed with saturated brine solution. The organic layer was dried over Na2SO4 and evaporated to obtain crude product (0.2 g). The crude product was purified by preparative TLC to obtain pure 8-{1-[1-(4-isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.12 g, 80%) as a light yellow oil.

reactant | 1,3-dipropyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.23 mmol, 0.100 g | C(CC)N1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1)CCC)=O | C20H32N6O3Si
reactant | methanesulfonic acid 1-(4-isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl ester | 0.34 mmol, 0.107 g | C(C)(C)C1=CC=C(C=C1)N1CC(CC1=O)COS(=O)(=O)C | C15H21NO4S
reactant | K2CO3 | 0.34 mmol, 0.048 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-{1-[1-(4-isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.12 g, 80% | C(C)(C)C1=CC=C(C=C1)N1CC(CC1=O)CN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC | C34H49N7O4Si
